US08470831B2
A solution of (E)-3-(3-methoxy-4-sulfamoyl-phenyl)-acrylic acid (0.291 g, 1.13 mmol) and thionyl chloride (0.100 mL, 1.36 mmol) in dry THF (15 mL) was stirred at reflux temperature for 1 h. Then a further aliquot of thionyl chloride (0.050 mL, 0.68 mmol) was added and the mixture was stirred at reflux temperature for additional 2 hrs. The mixture was then concentrated under reduced pressure, taken up with dry THF (3 mL) and added dropwise to a solution of 3-chloro-phenylamine (0.109 mL, 1.03 mmol) and diisopropylethylamine (0.705 mL, 4.12 mmol) in dry THF (13 mL). After stirring at RT for 16 hrs, the reaction mixture was concentrated under reduced pressure, taken up with DCM and washed with aqueous sodium hydrogencarbonate, and brine. The organic layer was then dried over sodium sulphate and evaporated. The resulting raw material was purified by column chromatography over silica gel (eluant DCM/acetone 9/1) to give 100 mg of the title (E)-N-(3-chloro-phenyl)-3-(3-methoxy-4-sulfamoyl-phenyl)-acrylamide as a white powder.

reactant | (E)-3-(3-methoxy-4-sulfamoyl-phenyl)-acrylic acid | 1.13 mmol, 0.291 g | COC=1C=C(C=CC1S(N)(=O)=O)/C=C/C(=O)O | C10H11NO5S
reactant | thionyl chloride | 1.36 mmol, 0.100 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 0.68 mmol, 0.050 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-chloro-phenylamine | 1.03 mmol, 0.109 mL | ClC=1C=C(C=CC1)N | C6H6ClN
reactant | diisopropylethylamine | 4.12 mmol, 0.705 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | (E)-N-(3-chloro-phenyl)-3-(3-methoxy-4-sulfamoyl-phenyl)-acrylamide | 100 mg | ClC=1C=C(C=CC1)NC(\C=C\C1=CC(=C(C=C1)S(N)(=O)=O)OC)=O | C16H15ClN2O4S
